US07256305B2
In a 50 mL-volumetric autoclave was added deaerated ethanol (10 mL), and thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (S)-epichlorohydrin (1.9 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (1 MPa) was introduced therein and the mixture was reacted at 30° C. for 30 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give 4-chloro-3-hydroxybutanoic acid ethyl ester (3.1 g, 92%, >99% ee) as a colorless oil. bp: 80° C./0.6 mmHg.

reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (S)-epichlorohydrin | 20 mmol, 1.9 g | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 4-chloro-3-hydroxybutanoic acid ethyl ester | 3.1 g, 92% | C(C)OC(CC(CCl)O)=O | C6H11ClO3
